US06063791
1-[[3-[(2,4-Dimethylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-N-[2-[[4-(aminoiminomethyl)phenyl]carbonylaminol]ethyl]-2(S)-pyrrolidinecarboxamide
A solution of 0.15 g (7.25.10-4 mol) of 4-(aminoiminomethyl)benzoic acid hydrochloride in 10 ml of dimethylformamide (DMF) is prepared and 0.15 g (7.98.10-4 mol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI) and 0.11 g (7.25.10-4 mol) of 1-hydroxy-7-azabenzotriazole (HOAT) are added. The resulting mixture is stirred for 30 minutes at room temperature (about 20° C.) and a solution of 0.4 g (7.25.10-4 mol) of 1-[[3-[(2,4-dimethylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-N-[2-aminoethyl]-2(S)-pyrrolidine-carboxamide in 10 ml of DMF is then added dropwise. The reaction medium is stirred for 5 hours at room temperature and then poured into iced water. 1 N sodium hydroxide solution is then added slowly until the pH is 8, after which the mixture is extracted with dichloromethane. The organic phase is washed with water, dried over sodium sulfate and then concentrated under reduced pressure. The crude product is purified by chromatography on NH2 -grafted silica gel (LICHROPREP® NH2) using a dichloromethane/methanol mixture (95/5; v/v) as the eluent to give 0.2 g of the expected product (yield=40%). The product is used directly to obtain the salt.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.15 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.11 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-[[3-[(2,4-dimethylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-N-[2-aminoethyl]-2(S)-pyrrolidine-carboxamide | 0.4 g | CC1=NC2=C(C=CC=C2C(=C1)C)OCC=1C(=C(C=CC1Cl)S(=O)(=O)N1[C@@H](CCC1)C(=O)NCCN)Cl | C25H28Cl2N4O4S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(aminoiminomethyl)benzoic acid hydrochloride | 0.15 g | Cl.NN=CC1=CC=C(C(=O)O)C=C1 | InChI=1S/C8H8N2O2.ClH/c9-10-5-6-1-3-7(4-2-6)8(11)12;/h1-5H,9H2,(H,11,12);1H
